US08623859B2
N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-(1-{[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}ethyl)furan-3-carboxamide trifluoroacetamide
The title compound was prepared according to general procedure AH using the bis TFA salt of 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethanamine, (40 mg, 0.1 mmol), TEA (0.05 mL, 0.32 mmol), DMF (1 mL), 5-(1-{[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}ethyl)furan-3-carboxylic acid (39 mg, 0.11 mmol), EDCI (24 mg, 0.13 mmol) and HOBt monohydrate (17 mg, 0.13 mmol). The crude product was purified using MP-TsOH resin, washing with MeOH (5 mL) and eluting with 7N NH3 in MeOH (7 mL). A portion of the resulting partially purified product was purified using prep method C to afford the title compound.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethanamine | 0.1 mmol, 40 mg | N1C(=NCC1)C1=CC=C(C=C1)CCN | C11H15N3
reactant | 5-(1-{[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}ethyl)furan-3-carboxylic acid | 0.11 mmol, 39 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C(C)C1=CC(=CO1)C(=O)O)C)C | C17H21NO6S
reactant | EDCI | 0.13 mmol, 24 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt monohydrate | 0.13 mmol, 17 mg | C1=CC=C2C(=C1)N=NN2O.O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-(1-{[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}ethyl)furan-3-carboxamide trifluoroacetamide | FC(C(=O)N)(F)F.N1C(=NCC1)C1=CC=C(C=C1)CCNC(=O)C1=COC(=C1)C(C)N(C)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | InChI=1S/C28H34N4O5S.C2H2F3NO/c1-18-14-24(36-5)15-19(2)26(18)38(34,35)32(4)20(3)25-16-23(17-37-25)28(33)31-11-10-21-6-8-22(9-7-21)27-29-12-13-30-27;3-2(4,5)1(6)7/h6-9,14-17,20H,10-13H2,1-5H3,(H,29,30)(H,31,33);(H2,6,7)
